US08067445B2
Step 2: (R)-2-(2′-Ethylaminomethyl-5,4′-bis-trifluoromethyl-biphenyl-3-yl)-propionic acid methyl ester
(R)-2-(2′-Ethylaminomethyl-5,4′-bis-trifluoromethyl-biphenyl-3-yl)-propionic acid (0.04 g, 0.10 mmol) in MeOH (2 mL) was treated with 2 drops of sulfuric acid at room temperature overnight. The mixture was concentrated, and the crude material was used directly in the next step.

reactant | (R)-2-(2′-Ethylaminomethyl-5,4′-bis-trifluoromethyl-biphenyl-3-yl)-propionic acid | 0.10 mmol, 0.04 g | C(C)NCC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=CC(=C1)C(F)(F)F)[C@H](C(=O)O)C | C20H19F6NO2
reactant | MeOH | 2 mL | CO | CH4O
catalyst | sulfuric acid | 2 drops | S(O)(O)(=O)=O | H2O4S
product | (R)-2-(2′-Ethylaminomethyl-5,4′-bis-trifluoromethyl-biphenyl-3-yl)-propionic acid methyl ester | COC([C@H](C)C=1C=C(C=C(C1)C(F)(F)F)C1=C(C=C(C=C1)C(F)(F)F)CNCC)=O | C21H21F6NO2
